### PR TITLE
chore: bump to v4.23.0

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**

### CODE REVIEW

File: PrimeNumberTheoremAnd/Wiener.lean [hunk 1]
```diff
@@ -1077,7 +1082,7 @@ lemma one_div_sub_one (n : ℕ) : 1 / (↑(n - 1) : ℝ) ≤ 2 / n := by
 
 lemma quadratic_pos (a b c x : ℝ) (ha : 0 < a) (hΔ : discrim a b c < 0) : 0 < a * x ^ 2 + b * x + c := by
   have l1 : a * x ^ 2 + b * x + c = a * (x + b / (2 * a)) ^ 2 - discrim a b c / (4 * a) := by
-    field_simp [discrim] ; ring
+    field_simp; simp [discrim] ; ring
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/Wiener.lean]: Doesn't this count as a nonterminal simp? Should it be `simp only [discrim]`?

File: PrimeNumberTheoremAnd/Wiener.lean [hunk 2]
```diff
@@ -1131,8 +1136,8 @@ lemma hh_deriv (a : ℝ) {t : ℝ} (ht : t ≠ 0) : HasDerivAt (hh a) (hh' a t)
   have l2 : HasDerivAt (fun t : ℝ => 1 + (a * log t) ^ 2) (2 * a ^ 2 * t⁻¹ * log t) t := l3.const_add _
   have l1 : HasDerivAt (fun t : ℝ => t * (1 + (a * log t) ^ 2))
       (1 + 2 * a ^ 2 * log t + a ^ 2 * log t ^ 2) t := by
-    convert (hasDerivAt_id t).mul l2 using 1 ; field_simp ; ring
-  convert l1.inv e1 using 1 ; field_simp [hh', hh, pp] ; ring
+    convert (hasDerivAt_id t).mul l2 using 1 ; field_simp; simp ; ring
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/Wiener.lean]: Same here and the next line

File: PrimeNumberTheoremAnd/Wiener.lean [hunk 3]
```diff
@@ -1151,7 +1156,8 @@ lemma hh_antitone {a : ℝ} (ha : a ∈ Ioo (-1) 1) : AntitoneOn (hh a) (Ioi 0)
 noncomputable def gg (x i : ℝ) : ℝ := 1 / i * (1 + (1 / (2 * π) * log (i / x)) ^ 2)⁻¹
 
 lemma gg_of_hh {x : ℝ} (hx : x ≠ 0) (i : ℝ) : gg x i = x⁻¹ * hh (1 / (2 * π)) (i / x) := by
-  field_simp [gg, hh]
+  simp [gg, hh]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/Wiener.lean]: Same

File: PrimeNumberTheoremAnd/Wiener.lean [hunk 4]
```diff
@@ -1307,7 +1313,8 @@ lemma hh_integrable_aux (ha : 0 < a) (hb : 0 < b) (hc : 0 < c) :
   have l1 (x) (hx : 0 < x) := (l5 x hx).arctan
   have l6 (x) (hx : 0 < x) : HasDerivAt g (g' x) x := by
     convert (l1 x hx).const_mul (a * c / b) using 1
-    field_simp [g'] ; ring
+    simp [g']
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/Wiener.lean]: Same

File: PrimeNumberTheoremAnd/Wiener.lean [hunk 5]
```diff
@@ -1412,7 +1419,8 @@ lemma bound_sum_log {C : ℝ} (hf0 : f 0 = 0) (hf : chebyWith C f) {x : ℝ} (hx
   · congr ; ext i
     by_cases hi : i = 0
     · simp [hi, hf0]
-    · field_simp [hi, ggg, gg]
+    · simp [hi, ggg, gg]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/Wiener.lean]: Same

File: PrimeNumberTheoremAnd/Wiener.lean [hunk 6]
```diff
@@ -1744,9 +1752,10 @@ lemma wiener_ikehara_smooth (hf : ∀ (σ' : ℝ), 1 < σ' → Summable (nterm f
     simpa using (comp_exp_support hsupp hplus).comp_smul this |>.mul_left
   obtain ⟨g, hg⟩ := fourier_surjection_on_schwartz (toSchwartz h h1 h2)
 
-  have why (x : ℝ) : (2 * π * x / (2 * π) : ℂ) = x := by norm_cast; field_simp
   have l1 {y} (hy : 0 < y) : y * Ψ y = 𝓕 g (1 / (2 * π) * Real.log y) := by
-    field_simp [hg, toSchwartz, h, why] ; norm_cast
+    simp [hg, toSchwartz, h]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/Wiener.lean]: Same

File: PrimeNumberTheoremAnd/Wiener.lean [hunk 7]
```diff
@@ -1759,12 +1768,13 @@ lemma wiener_ikehara_smooth (hf : ∀ (σ' : ℝ), 1 < σ' → Summable (nterm f
     rw [← l1 (by positivity)]
     have : (n : ℂ) ≠ 0 := by simpa using hn
     have : (x : ℂ) ≠ 0 := by simpa using hx.ne.symm
-    field_simp ; ring
+    simp
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/Wiener.lean]: Same. I won't mark the others, please look through and find nonterminal simps

File: PrimeNumberTheoremAnd/Wiener.lean [hunk 8]
```diff
@@ -1759,12 +1768,13 @@ lemma wiener_ikehara_smooth (hf : ∀ (σ' : ℝ), 1 < σ' → Summable (nterm f
...
+    field_simp
 
   have l3 : ∀ᶠ x in atTop, ↑A * ∫ (u : ℝ) in Ici (-Real.log x), 𝓕 (⇑g) (u / (2 * π)) =
       ↑A * ∫ (y : ℝ) in Ioi x⁻¹, Ψ y := by
     filter_upwards [eventually_gt_atTop 0] with x hx
-    congr 1 ; simp [hg, toSchwartz, h] ; norm_cast ; field_simp [why] ; norm_cast
+    congr 1 ; simp [hg, toSchwartz, h] ; norm_cast ; field_simp; norm_cast
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/Wiener.lean]: Another "hidden" one

**Review by AlexKontorovich — APPROVED** [review]
Thank you!!

**Comment by Ruben-VandeVelde** [comment]
@AlexKontorovich is this good to go?

**Review by AlexKontorovich — APPROVED** [review]
Thanks!!
